US06890923B2
a) 3-[1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidin-5-yl]-2-propenoic acid, methyl ester
5-Bromo-3-methyl-1-(2-methylpropyl)-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione, (1.0 g, Example 1 part c)), methyl acrylate (0.95 ml), tri-o-tolylphosphine (0.128 g), palladium acetate (0.047 g) and triethylamine (4 ml) in acetonitrile (20 ml) were stirred in a pressure tube at 70° C. for 16 hours. After cooling, the reaction mixture was concentrated under reduced pressure. The residue was concentrated under reduced pressure and purified by flash silica chromatography eluting with a gradient of 0-1% ethanol in dichloromethane to give the sub-title compound as a brown foam (0.90 g).

reactant | 5-Bromo-3-methyl-1-(2-methylpropyl)-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | BrC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=C(C=CC=C2)C(F)(F)F | C19H18BrF3N2O2S
reactant | methyl acrylate | 0.95 ml | C(C=C)(=O)OC | C4H6O2
reactant | tri-o-tolylphosphine | 0.128 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | palladium acetate | 0.047 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidin-5-yl]-2-propenoic acid, methyl ester | 0.90 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=C(C=CC=C2)C(F)(F)F)C=CC(=O)OC)CC(C)C)=O | C23H23F3N2O4S
